Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[O:2]>>[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.41073971
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4],1.7977104423599997
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:10]([H:11])[H:12].[O:8][H:9]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-6.13793825987
[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])=[C:10][O:11][H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-1.81437148745
[O:1]=[C:2]([H:3])[O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4],1.18257692122
[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7]>>[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-0.8929653288089999
[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6].[H:7]>>[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6][H:7],-6.00608070796
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12]>>[O:11][H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],2.81170608662
[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[O:7][C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-0.611989799649
[H:5].[O:1]=[C:2]=[C:3][C:4][O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9],-4.29645049977
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[O:11][H:12]>>[H:1][O:2][C:3](=[C:4][H:5])[C@:9]([C:6]([H:7])[H:8])([H:10])[O:11][H:12],3.29008454688
[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9][C:10]([H:11])([H:12])[H:13],-2.49366424104
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9],3.85230305828
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:8][C:9]([H:10])([H:11])[H:12].[H:7],4.1322842274400005
[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2],5.57079899957
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-6.03093315316
[C:6]([H:7])#[C:8][C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-3.39650912195
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],2.49506824447
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-1.99649620882
[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-0.83177299082
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:1]#[C:2][C:8]([H:9])=[C:10]([H:7])[H:11].[C:3]([H:4])#[C:5][H:6],0.43758776998
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:4][C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:3],3.81394943771
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:6],1.8249656743
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.74863767988
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-1.79099704192
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:7].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])=[C:10][H:11],2.52810071763
[C:7](=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-2.0102016909
[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9]/[O:10][H:11].[H:8]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-2.96108589667
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-0.35288984816
